US07217724B2
A mixture of (R)—N-{2-[3-(2-aminopropyl)-1H-indol-7-yloxy]-acetyl}methanesulfonamide.trifluoroacetate (40 mg, 0.091 mmol), (R)-(pyridin-3-yl)oxirane (48 mg, 0.36 mmol) and iPr2NEt (24 μL, 0.137 mmol) in acetonitrile (1 mL) is refluxed for 3 hours. After cooling, the mixture is concentrated and purified by preparative reversed phase HPLC (trifluoroacetic acid/water/acetonitrile) to give the desired N-(2-{3-[(2R)-2-((2R)-2-hydroxy-2-pyridin-3-ylethylamino)propyl]-1H-indol-7-yloxy}acetyl)methanesulfonamide.2 trifluoroacetate (3 mg, yield: 3%).

reactant | (R)—N-{2-[3-(2-aminopropyl)-1H-indol-7-yloxy]-acetyl}methanesulfonamide | N[C@@H](CC1=CNC2=C(C=CC=C12)OCC(=O)NS(=O)(=O)C)C | C14H19N3O4S
reactant | trifluoroacetate | 0.091 mmol, 40 mg | FC(C(=O)[O-])(F)F
reactant | (R)-(pyridin-3-yl)oxirane | 0.36 mmol, 48 mg | N1=CC(=CC=C1)[C@H]1OC1 | C7H7NO
reactant | iPr2NEt | 0.137 mmol, 24 μL | CCN(C(C)C)C(C)C | C8H19N
solvent | acetonitrile | 1 mL | C(C)#N | C2H3N
product | N-(2-{3-[(2R)-2-((2R)-2-hydroxy-2-pyridin-3-ylethylamino)propyl]-1H-indol-7-yloxy}acetyl)methanesulfonamide | O[C@@H](CN[C@@H](CC1=CNC2=C(C=CC=C12)OCC(=O)NS(=O)(=O)C)C)C=1C=NC=CC1 | C21H26N4O5S
